US04279912
1.8 g of 2-amino-4,7-dichloroquinoline [Hardman and Partridge J.C.S. (1958) p. 641] were reacted with 2.1 g of ethyl bromopyruvate in 60 ml of dimethoxyethane in the presence of 0.7 g of propylene oxide by the method of Example 9 to obtain ethyl 5,8-dichloroimidazo-[1,2-a]-quinoline-2-carboxylate as fine colorless needles melting at 229°-230° C.

reactant | 2-amino-4,7-dichloroquinoline | 1.8 g | NC1=NC2=CC(=CC=C2C(=C1)Cl)Cl | C9H6Cl2N2
reactant | ethyl bromopyruvate | 2.1 g | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | propylene oxide | 0.7 g | C1C(C)O1 | C3H6O
solvent | dimethoxyethane | 60 ml | C(OC)COC | C4H10O2
product | ethyl 5,8-dichloroimidazo-[1,2-a]-quinoline-2-carboxylate | ClC1=CC=2N(C3=CC(=CC=C13)Cl)C=C(N2)C(=O)OCC | C14H10Cl2N2O2
